US07456164B2
3-Cyano-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-benzenesulfonamide
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (100 mg, 0.314 mmol) and triethylamine (0.1 mL, 0.63 mmol) in anhydrous dichloromethane (3 mL) under nitrogen atmosphere at 0° C. was added 3-cyanobenzenesulfonylchloride (100 mg, 0.47 mmol). The reaction mixture was stirred for 2 h allowing it to warm up to room temperature. It was then diluted with dichloromethane and quenched with water. The organic layer was separated and washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with DCM:MeOH (95:5 to 90:10) to give the title compound. 1H NMR (400 MHz, CDCl3) δ7.97 (s, 1H), 7.93-7.91 (d, 1H), 7.83-7.81 (d, 1H), 7.62-7.58 (m, 1H), 7.11-7.09 (d, 2H), 6.89-6.86 (d, 2H), 4.06-4.03 (m, 3H), 3.77-3.72 (m, 2H), 3.56-3.51 (m, 2H), 3.08 (br s, 2H), 2.70-2.67 (m, 2H), 3.08 (br s, 4H), 2.08-2.01 (m, 4H), 1.85-1.82 (m, 6H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.314 mmol, 100 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.63 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3-cyanobenzenesulfonylchloride | 0.47 mmol, 100 mg | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-Cyano-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-benzenesulfonamide | C(#N)C=1C=C(C=CC1)S(=O)(=O)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H33N3O4S
